US08835595B2
DL-alanine-copolymerized N-MXD10I (polyamide compound 218, MXDA unit/sebacic acid unit/isophthalic acid unit/DL-alanine unit=48.6/46.4/2.4/2.6 (% by mol)) and a non-stretched film thereof were produced in the same manner as in Example 208 except that adipic acid was changed to sebacic acid (produced by Itoh Oil Chemicals Co., Ltd.).

reactant | DL-alanine | NC(C)C(=O)O | C3H7NO2
reactant | MXDA | C1=CC(=CC(=C1)CN)CN | C8H12N2
reactant | sebacic acid | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | isophthalic acid | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
